* e:\ic_hef4531b\ic_hef4531b.cir

.include HEF4531B.sub
x1 net-_u15-pad9_ net-_u15-pad10_ net-_u15-pad11_ net-_u15-pad12_ net-_u15-pad13_ net-_u15-pad14_ net-_u15-pad15_ net-_u15-pad16_ net-_u14-pad6_ net-_u14-pad7_ net-_u14-pad8_ net-_u14-pad9_ net-_u14-pad10_ ? ? net-_u16-pad1_ HEF4531B
* u15  i0 i1 i2 i3 i4 i5 i6 i7 net-_u15-pad9_ net-_u15-pad10_ net-_u15-pad11_ net-_u15-pad12_ net-_u15-pad13_ net-_u15-pad14_ net-_u15-pad15_ net-_u15-pad16_ adc_bridge_8
* u14  i8 i9 i10 i11 i12 net-_u14-pad6_ net-_u14-pad7_ net-_u14-pad8_ net-_u14-pad9_ net-_u14-pad10_ adc_bridge_5
* u16  net-_u16-pad1_ out dac_bridge_1
* u17  out plot_v1
v1  i0 gnd pulse(0 5 0.01n 0.01n 0.01n 1m 2m)
v2  i1 gnd pulse(0 5 0.01n 0.01n 0.01n 2m 4m)
v3  i2 gnd pulse(0 5 0.01n 0.01n 0.01n 3m 6m)
v4  i3 gnd pulse(0 5 0.01n 0.01n 0..01n 4m 8m)
v5  i4 gnd pulse(0 5 0.01n 0.01n 0.01n 5m 10m)
v6  i5 gnd pulse(0 5 0.01n 0.01n 0.01n 6m 12m)
v7  i6 gnd pulse(0 5 0.01n 0.01n 0.01n 7m 14m)
v8  i7 gnd pulse(0 5 0.01n 0.01n 0.01n 8m 16m)
v9  i8 gnd pulse(0 5 0.01n 0.01n 0.01n 9m 18m)
v10  i9 gnd pulse(0 5 0.01n 0.01n 0.01n 10m 20m)
v11  i10 gnd pulse(0 5 0.01n 0.01n 0.01n 11m 22m)
v12  i11 gnd pulse(0 5 0.01n 0.01n 0.01n 12m 24m)
v13  i12 gnd pulse(0 5 0.01n 0.01n 0.01n 13m 26m)
* u8  i7 plot_v1
* u9  i8 plot_v1
* u10  i9 plot_v1
* u11  i10 plot_v1
* u12  i11 plot_v1
* u13  i12 plot_v1
* u7  i6 plot_v1
* u6  i5 plot_v1
* u5  i4 plot_v1
* u4  i3 plot_v1
* u3  i2 plot_v1
* u2  i1 plot_v1
* u1  i0 plot_v1
a1 [i0 i1 i2 i3 i4 i5 i6 i7 ] [net-_u15-pad9_ net-_u15-pad10_ net-_u15-pad11_ net-_u15-pad12_ net-_u15-pad13_ net-_u15-pad14_ net-_u15-pad15_ net-_u15-pad16_ ] u15
a2 [i8 i9 i10 i11 i12 ] [net-_u14-pad6_ net-_u14-pad7_ net-_u14-pad8_ net-_u14-pad9_ net-_u14-pad10_ ] u14
a3 [net-_u16-pad1_ ] [out ] u16
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u15 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_5, NgSpice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u16 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-06 26e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(i0) v(i1)+10 v(i2)+20 v(i3)+30 v(i4)+40 v(i5)+50 v(i6)+60 v(i7)+70 v(i8)+80 v(i9)+90 v(i10)+100 v(i11)+110 v(i12)+120
.endc
.end
